Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
aspirin
 
Attending: ___
 
Chief Complaint:
Cervical stenosis
 
Major Surgical or Invasive Procedure:
___ - C4/5, C5/6, C6/7 anterior cervical discectomy/fusion
 
History of Present Illness:
This is a ___ year old female who presented to neurosurgical 
attention with neck pain and shooting pain in the arms down into 
all fingers bilaterally.  She started to develop difficulty with 
ambulation with her legs giving out at times.  She also had 
difficulty writing.  A cervical MRI showed advanced disc disease 
with disc herniation causing severe central stenosis most 
notably at C6/7 with T2 cord signal changes and to a lesser 
extent at C4/5 and C5/6.  After careful review of her history, 
history exam, and imaging it was determined that she would 
benefit from a C4/5, C5/6, C6/7 anterior cervical 
discectomy/fusion.  The patient was in agreement with the plan. 
Consent was obtained and signed.
 
Past Medical History:
depression, anxiety, bipolar disorder, asthma, COPD, HTN
 
Social History:
___
Family History:
Cancer
Kidney Disease
 
Physical Exam:
Pre op
A+O x3, Cranial nerves II-XII grossly intact
Moves all 4 extremities with ___ strength with the exception of 
the right tricep which was 4+/5.  Sensation to light touch 
intact x4.  Positive ___ bilaterally, brisk clonus 
bilateral lower extremities.

post op:
intact, incision C/D/I. Bilateral Hoffmans  
 

 
Pertinent Results:
___ AP/Lateral Xrays Cspine
Proper placement of hardware and proper alignment.
 
Brief Hospital Course:
On ___, patient was admitted to ___ for elective C4/5, 
C5/6, C6/7 anterior cervical discectomy/fusion.  The patient 
tolerated the procedure well, was extubated, and transferred to 
the PACU for further rehabilition.  On post op exam, she was 
stable neurologically.  She had a JP drain in place.  She had 
post op X rays ordered.  She was later transferred to the floor. 
She remained in stable condition through POD 1. ___ and OT were 
ordered to assess disposition. 

On ___ ___ recommended that the patient be sent to rehab on 
discharge.

On ___, the patient was stable neurologically.  She was given 
a cervical C collar that fit her better.  She worked with ___ 
without any issues.

On ___, the patient was stable neurologically.  Her pain was 
well controlled.  

On ___, The patient was evaluated by Physical Therapy and it 
was determined that she should be discharged to home with home 
physical therapy.The patient was neurologically stable.  
 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q12H 
2. Budesonide Nasal Inhaler 90 mcg Other QAM 
3. Dexamethasone 4 mg IV Q8H Duration: 3 Doses 
RX *dexamethasone 4 mg 1 tablet(s) by mouth Every 8 hours for 3 
doses Disp #*3 Tablet Refills:*0
4. Duloxetine 60 mg PO DAILY 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Gabapentin 800 mg PO Q6H 
7. HydrOXYzine 100 mg PO Q6H:PRN anxiety 
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone [Oxecta] 5 mg ___ tablet(s) by mouth Every ___ 
hours as needed Disp #*100 Tablet Refills:*0
9. Senna 8.6 mg PO DAILY 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth Daily Disp #*30 
Capsule Refills:*1
10. Tiotropium Bromide 1 CAP IH DAILY 
11. TraZODone 100-150 mg PO QHS:PRN insomnia 
12. Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Cervical stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
bilateral hoffmans
incision clean/dry/intact
strength was full in all 4 extremities
 
Discharge Instructions:
Discharge Instructions
ACDF

Surgery
•Your incision is closed with dissolvable sutures underneath 
the skin and glue. You do not need suture removal. •Please keep 
your incision dry for 72 hours after surgery.
•Please avoid swimming for two weeks.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•You must wear your hard cervical collar at all times. You may 
remove it briefly for skin care and showering. 
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc… until cleared by your 
neurosurgeon.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___